US05482936
Triethylamine (84 mL, 0.6 mole) was added to a suspension of 3-nitro-2,4-quinolinediol (40 g, 0.194 mole) in methylene chloride (1200 mL). The resulting solution was cooled in an ice bath and trifluoromethanesulfonic anhydride (67.2 mL, 0.40 mole) was added. After the addition was complete, the reaction was heated on a steam bath for 10 minutes then once again cooled in an ice bath. Tert-butylamine (42 mL, 0.4 mole) was added then the reaction was heated on a steam bath for 15 minutes. The reaction mixture was washed with aqueous sodium bicarbonate (500 mL), dried over magnesium sulfate then concentrated under vacuum. The concentrate was put through a layer of silica gel and the silica gel was eluted with methylene chloride. The methylene chloride solution was evaporated under vacuum to provide 54 g of [4-(1,1-dimethylethyl)amino-3-nitroquinolin-2-yl]trifluoromethanesulfonate.

reactant | Triethylamine | 0.6 mole, 84 mL | C(C)N(CC)CC | C6H15N
reactant | 3-nitro-2,4-quinolinediol | 0.194 mole, 40 g | [N+](=O)([O-])C=1C(=NC2=CC=CC=C2C1O)O | C9H6N2O4
reactant | trifluoromethanesulfonic anhydride | 0.40 mole, 67.2 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Tert-butylamine | 0.4 mole, 42 mL | C(C)(C)(C)N | C4H11N
solvent | methylene chloride | 1200 mL | C(Cl)Cl | CH2Cl2
product | [4-(1,1-dimethylethyl)amino-3-nitroquinolin-2-yl]trifluoromethanesulfonate | 54 g | CC(C)(C)NC1=C(C(=NC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C14H14F3N3O5S
